US04537895
A mixture of 5.3 g (0.015 mole) of 4-phenyl-8-chloro-acetyl-amino-2-methyl-1,2,3,4-tetrahydro-isoquinoline-hydrochloride, 15 ml (10.4 g, 0.23 mole) of ethyl amine and 50 ml of ethanol is reacted in a bomb tube at 60° C. for 5 hours. The reaction mixture is evaporated, the residual oil (7.1 g) is triturated with 50 ml of water, the mixture is made alkaline by adding 30 ml of a 30% aqueous sodium hydroxide solution under stirring and cooling. The mixture is extracted ten times with 100 ml of ether each. The ether solution is dried over anhydrous sodium sulfate and evaporated. The residual oil is rubbed with petrolether. Thus 4.3 g (0.0133 mole) of crude 8-ethylamino-acetylamino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline are obtained in the form of a yellowish-white powder.

reactant | 4-phenyl-8-chloro-acetyl-amino-2-methyl-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | 0.015 mole, 5.3 g | Cl.C1(=CC=CC=C1)C1CN(C(C2=C(C=CC=C12)Cl)(N)C(C)=O)C
reactant | ethyl amine | 0.23 mole, 15 ml, 10.4 g | C(C)N | C2H7N
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 8-ethylamino-acetylamino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 0.0133 mole, 4.3 g | C(C)NC=1C=CC=C2C(CN(C(C12)NC(C)=O)C)C1=CC=CC=C1 | C20H25N3O
